US06288082B1
4-(1H-Indazole-6-ylamino)-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinoline-3-carbonitrile
The title compound was prepared by the procedure of Example 167 using 0.408 g of (3-chloropropoxy)-4-(1H-indazol-6-ylamino)-6-methoxyquinoline-3-carbonitrile, 1.4 ml of morpholine, 0.060 g of sodium iodide and 12 ml of ethylene glycol dimethyl ether to give 0.255 g (56%) of the desired product. MP 143-145° C.; HRMS: C25H26N6O3: m/z 458.2084; δ(mu)−1.7

reactant | (3-chloropropoxy)-4-(1H-indazol-6-ylamino)-6-methoxyquinoline-3-carbonitrile | 0.408 g | ClCCCOC1=NC2=CC=C(C=C2C(=C1C#N)NC1=CC=C2C=NNC2=C1)OC | C21H18ClN5O2
reactant | morpholine | 1.4 ml | N1CCOCC1 | C4H9NO
reactant | sodium iodide | 0.060 g | [I-].[Na+]
solvent | ethylene glycol dimethyl ether | 12 ml | COCCOC | C4H10O2
product | 4-(1H-Indazole-6-ylamino)-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinoline-3-carbonitrile | 0.255 g, 56% | N1N=CC2=CC=C(C=C12)NC1=C(C=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1)C#N | C25H26N6O3
